US05128355
A solution of 4.40 g of 1-[(2'-nitrobiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-methoxymethylimidazole, 2.10 g of iron powder, 4.25 mL of glacial acetic acid, and 200 mL of methanol was refluxed for 5 hours. After cooling, the solvent was removed in vacuo, and the residue was dissolved in ethyl acetate. The precipitated iron salts were removed by filtration through Celite®, and the resulting solution was washed with water and brine, dried over anhydrous sodium sulfate and concentrated. Column chromatography on silica gel (elution: 10-30% ethyl acetate/benzene) furnished 2.95 g of 1-[2'-aminobiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-methoxymethylimidazole; NMR (200 MHz, CDCl3); δ 7.43 (d, 2H); 7.19-7.04 (m, 4H); 6.80 (m, 2H); 5.19 (s, 2H); 4.33 (s, 2H); 3.70 (br s, 1H); 3.28 (s, 3H); 2.59 (t, 2H); 1.67 (quint., 2H); 1.34 (sext., 2H); 0.87 (t, 3H).

reactant | 1-[(2'-nitrobiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-methoxymethylimidazole | 4.40 g | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1COC)Cl)CCCC | C22H24ClN3O3
reactant | acetic acid | 4.25 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 2.10 g | [Fe] | Fe
solvent | methanol | 200 mL | CO | CH4O
product | 2-butyl-4-chloro-5-methoxymethylimidazole | C(CCC)C=1NC(=C(N1)Cl)COC | C9H15ClN2O
